US05089635
81 ml of a 1.6 molar solution of vinylmagnesium bromide in THF are dripped at -10° C. into a solution of 20.0 g of 4 bromobenzaldehyde in 300 ml of absolute THF. After addition the mixture is stirred for 60 minutes at 0° C., poured into ice water and extracted with ethyl acetate. After chromatography on Al2O3 with hexane/ethyl acetate 18.6 g of 4-(1-hydroxy-2-propenyl)-bromobenzene are obtained in the form of colorless oil.

reactant | vinylmagnesium bromide | C(=C)[Mg]Br
reactant | bromobenzaldehyde | BrC1=C(C=O)C=CC=C1 | C7H5BrO
reactant | THF | C1CCOC1 | C4H8O
reactant | THF | 300 ml | C1CCOC1 | C4H8O
product | 4-(1-hydroxy-2-propenyl)-bromobenzene | OC(C=C)C1=CC=C(C=C1)Br | C9H9BrO
